US03966770
To a mixture of 260 ml. of 37% formaldehyde and 1800 ml. of concentrated hydrochloric acid is added 400 g. of 4'-hydroxyacetophenone at a temperature of about 45°C. The mixture is maintained at 50°C. for two hours, filtered, and washed with water to give 3'-chloromethyl-4'-hydroxyacetophenone, m.p. 154° C. dec.

reactant | formaldehyde | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
reactant | 4'-hydroxyacetophenone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
product | 3'-chloromethyl-4'-hydroxyacetophenone | ClCC=1C=C(C=CC1O)C(C)=O | C9H9ClO2
